US09388173B2
Step 1: tert-butyl (3-hydroxyphenyl)carbamate
To a solution of compound 3-aminophenol (2.2 g, 0.02 mol) in dioxane (45 mL) was added Boc2O (1034.8 mg, 5.2 mmol) under 0° C. The reaction mixture was stirred at 0° C. for 3 h then concentrated with the residue then dissolved in ethyl acetate. This organic layer was washed with 1M NaOH (100 ml) solution, water then dried over sodium sulfate, filtered and concentrated to yield a crude product which was used in next step without further purification.

reactant | 3-aminophenol | 0.02 mol, 2.2 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | Boc2O | 5.2 mmol, 1034.8 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 45 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (3-hydroxyphenyl)carbamate | OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H15NO3
